US08420690B2
b) 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-(1-naphthalenyl)ethyl]carbamate
To a solution of 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid (104 mg, 0.5 mmol), PyBrOP (384 mg, 0.83 mmol) and diisopropylethyl amine (0.14 mL, 0.83 mmol) in DCM (8 mL) at 25° C. was added 1,1-dimethylethyl [2-amino-2-(1-naphthalenyl)ethyl]carbamate (144 mg, 0.5 mmol) [from Preparation 6]. After 16 h, the solution was partitioned between H2O and washed with DCM. The combined organic fractions were dried (Na2SO4), concentrated and purified via column chromatography (silica) affording the title compound (76 mg, 32%) as a white solid: LC-MS (ES) m/z=477 (M+H)+.

reactant | 5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxylic acid | 0.5 mmol, 104 mg | CN1N=CC=C1C1=CC(=CS1)C(=O)O | C9H8N2O2S
reactant | PyBrOP | 0.83 mmol, 384 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | diisopropylethyl amine | 0.83 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1,1-dimethylethyl [2-amino-2-(1-naphthalenyl)ethyl]carbamate | 0.5 mmol, 144 mg | NC(CNC(OC(C)(C)C)=O)C1=CC=CC2=CC=CC=C12 | C17H22N2O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl [2-({[5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-2-(1-naphthalenyl)ethyl]carbamate | 76 mg, 32% | CN1N=CC=C1C1=CC(=CS1)C(=O)NC(CNC(OC(C)(C)C)=O)C1=CC=CC2=CC=CC=C12 | C26H28N4O3S
